US07790747B2
To a solution of N-methanesulfonylcarbonimidodithioic acid dimethyl ester (1.5 g, 8.02 mmol) in MeOH (15 ml) was added a solution of methylamine in THF (2.0 M, 4.8 ml, 9.6 mmol) and the reaction heated to 50° C. for 2.5 h before another portion of methylamine was added (4.8 ml, 9.6 mmol) and the reaction heated to 50° C. for an additional 1 h. The mixture was concentrated and purified by column chromatography on silica gel (EtOAc/Hexanes, 1:1) to afford S-methyl N-methanesulfonyl-N′-methylcarbamimidothioate (0.95 g, 70%) as a clear oil. 1H NMR (CDCl3) δ 2.40 (s, 3H), 2.96 (d, 3H, J=6 Hz), 3.01 (s, 3H), 7.95 (br s, 1H).

reactant | N-methanesulfonylcarbonimidodithioic acid dimethyl ester | 8.02 mmol, 1.5 g | CSC(=NS(=O)(=O)C)SC | C4H9NO2S3
reactant | methylamine | CN | CH5N
reactant | THF | 9.6 mmol, 2.0 M, 4.8 ml | C1CCOC1 | C4H8O
solvent | MeOH | 15 ml | CO | CH4O
product | S-methyl N-methanesulfonyl-N′-methylcarbamimidothioate | 0.95 g, 70% | CS(=O)(=O)NC(=NC)SC | C4H10N2O2S2
